US08058300B2
1-(Biphenyl-4-yl)cyclopropanecarboxylic acid (10 g, 42 mmol), ethanol (100 mL) and sulfuric acid (40 mL) were heated to 65° C. for 4 hours. The product was extracted with CH2Cl2 and water (2×), dried and evaporated to yield 9.5 g of 1-(biphenyl-4-yl)cyclopropanecarboxylic acid ethyl ester.

reactant | 1-(Biphenyl-4-yl)cyclopropanecarboxylic acid | 42 mmol, 10 g | C1(=CC=C(C=C1)C1(CC1)C(=O)O)C1=CC=CC=C1 | C16H14O2
reactant | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(biphenyl-4-yl)cyclopropanecarboxylic acid ethyl ester | 9.5 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H18O2
